US07279600B2
4′-{[tert-Butyl(dimethyl)silyl]oxy}-3-chloro[1,1′-biphenyl]-4-carbaldehyde oxime
The title compound was prepared by reacting 4′-{[tert-butyl(dimethyl)silyl]oxy}-3-chloro-1,1′-biphenyl-4-carbaldehyde (405 mg, 1.17 mmol) with hydroxylamine hydrochloride (154 mg, 2.22 mmol) according to Method C to yield a yellowish oil which was used in the next step without purification: MS (ESI) m/z 362/364 (M+H)+.

reactant | 4′-{[tert-butyl(dimethyl)silyl]oxy}-3-chloro-1,1′-biphenyl-4-carbaldehyde | 1.17 mmol, 405 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=O)Cl | C19H23ClO2Si
reactant | hydroxylamine hydrochloride | 2.22 mmol, 154 mg | Cl.NO
product | 4′-{[tert-Butyl(dimethyl)silyl]oxy}-3-chloro[1,1′-biphenyl]-4-carbaldehyde oxime | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=NO)Cl | C19H24ClNO2Si
